US08134001B2
In a manner similar to the method described in example 1d, 4-(4-chloro-2-formyl-phenoxy)-benzonitrile (2.8 g, 11 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (2.3 mL, 11 mmol), n-butyllithium (2.5 M, 4.4 mL, 11 mmol), trimethylsilyl chloride (1.4 mL, 11 mmol), triethylamine (2 mL, 14 mmol) and acetyl chloride (1 mL, 14 mmol) to give crude 1-[5-chloro-2-(4-cyano-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 4-(4-chloro-2-formyl-phenoxy)-benzonitrile | 11 mmol, 2.8 g | ClC1=CC(=C(OC2=CC=C(C#N)C=C2)C=C1)C=O | C14H8ClNO2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 11 mmol, 2.3 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 11 mmol, 2.5 M, 4.4 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 11 mmol, 1.4 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 14 mmol, 2 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 14 mmol, 1 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-chloro-2-(4-cyano-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)C#N | C19H19ClN2O2Si
